US07960552B2
To a solution of methyl 6-[4-({[3-(hydroxymethyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate (60 mg, 0.14 mmol), 2,6-dimethylphenol (17 mg, 0.14 mmol) and triphenylphosphine (40 mg, 0.15 mmol) in dichloromethane (1.5 mL) was added diisopropyl azodicarboxylate (0.028 mL, 0.15 mmol) dropwise. The solution was stirred at ambient temperature for approximately 1.5 hours and then in a microwave reactor at 100° C. for 10 minutes. The solution was adsorbed onto silica gel and purified by chromatography (silica gel, 0-40% ethyl acetate gradient elution). The resulting residue was taken up with ether and sonicated until a solid precipitated. The solid was isolated by filtration to afford methyl 6-[4-({[3-{[(2,6-dimethylphenyl)oxy]methyl}-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate (23 mg, 31%). 1H-NMR (400 MHz, CDCl3) δ 8.37-8.32 (m, 2H), 8.23-8.21 (m, 1H), 8.05-8.01 (m, 2H), 7.69 (d, J=9 Hz, 2H), 7.08 (d, J=9 Hz, 2H), 7.01-6.01 (m, 3H), 5.04 (s, 2H), 4.96 (s, 2H), 4.09 (s, 3H), 3.29 (septet, J=7 Hz, 1H), 2.23 (s, 6H), 1.38 (d, J=7 Hz, 6H).

reactant | methyl 6-[4-({[3-(hydroxymethyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate | 0.14 mmol, 60 mg | OCC1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OC)C(C)C | C25H24N2O5
reactant | 2,6-dimethylphenol | 0.14 mmol, 17 mg | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | triphenylphosphine | 0.15 mmol, 40 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.15 mmol, 0.028 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | methyl 6-[4-({[3-{[(2,6-dimethylphenyl)oxy]methyl}-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate | 23 mg, 31% | CC1=C(C(=CC=C1)C)OCC1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OC)C(C)C | C33H32N2O5
